US09328099B2
4-Methylcyclohexanone (1.0 g, 8.9 mmol) was added to a stirred solution of water (8.9 mL) containing sodium metabisulfite (0.98 g, 5.2 mmol). The resulting mixture was allowed to stir at ambient temperature for 15-30 minutes before diethyl ether (8.9 mL) was added followed by potassium cyanide (0.91 g, 14 mmol). The biphasic mixture was stirred vigorously for at least 30 minutes before the layers were partitioned and the organic layer was washed with water, followed by brine. The organic layer was dried over anhydrous Na2SO4, filtered, and concentrated in vacuo (23° C. water bath) to afford 4-methyl-1-hydroxycyclohexanecarbonitrile as a crude residue, which was carried forward without further purification. The crude residue (0.50 g, 3.6 mmol) was combined with pyridine (18.3 mL, 226 mmol), and POCl3 (1.34 mL, 14.4 mmol) in a microwave vial and sealed. The reaction mixture was heated to reflux for 16 hours. The reaction mixture was then cooled to ambient temperature, diluted with diethyl ether, and washed with 2N aqueous HCl saturated with sodium chloride (3×). The organic layer was washed with brine, dried over anhydrous MgSO4, filtered, and concentrated in vacuo (23° C. water bath) to afford the title compound as an oil.

reactant | 4-Methylcyclohexanone | 8.9 mmol, 1.0 g | CC1CCC(CC1)=O | C7H12O
reactant | water | 8.9 mL | O | H2O
reactant | sodium metabisulfite | 5.2 mmol, 0.98 g | S(=O)(=O)([O-])S(=O)[O-].[Na+].[Na+]
reactant | potassium cyanide | 14 mmol, 0.91 g | [C-]#N.[K+]
solvent | diethyl ether | 8.9 mL | C(C)OCC | C4H10O
product | 4-methyl-1-hydroxycyclohexanecarbonitrile | CC1CCC(CC1)(C#N)O | C8H13NO
